US03966956
a. [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate
5 g (0.016 mol) of N(1) -(p-methoxyphenyl)-p-chlorobenzhydrazide hydrochloride and 4.75 g (0.018 mol) of benzyl levulinoyloxyacetate were heated in 25ml of glacial acetic acid for 3 hours at 80°C. The solvent was then evaporated off under vacuum, the residue was taken up in chloroform and the solution was washed neutral by shaking with sodium bicarbonate solution and thereafter with water. After drying the chloroform solution, this was subjected to chromatography on aluminium oxide, the eluate was concentrated by evaporation and the viscous oil remaining as residue was crystallised by adding ether. The compound melted at 94°-95°C. The yield was 4.1 g which corresponds to 50.7% of the theoretical yield.

reactant | N(1) -(p-methoxyphenyl)-p-chlorobenzhydrazide hydrochloride | 0.016 mol, 5 g | Cl.COC1=CC=C(C=C1)N(N)C(C1=CC=C(C=C1)Cl)=O
reactant | benzyl levulinoyloxyacetate | 0.018 mol, 4.75 g | C(CCC(=O)C)(=O)OCC(=O)OCC1=CC=CC=C1 | C14H16O5
solvent | acetic acid | 25ml | C(C)(=O)O | C2H4O2
product | [1-(p-Chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H24ClNO6
